US09284284B2
g) 5-(5-Bromo-2-fluoro-phenyl)-5-fluoromethyl-morpholine-3-thione
A mixture of 7.34 g (22.65 mmol) 5-(5-bromo-2-fluoro-phenyl)-5-fluoromethyl-morpholin-3-one and 5.19 g (12.46 mmol) Lawesson's reagent in 73 ml of THF was refluxed for 1 h. The mixture was concentrated and crystallized from DCM/hexane and recrystallized from EtOH to yield the desired product as colorless crystals.

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-fluoromethyl-morpholin-3-one | 22.65 mmol, 7.34 g | BrC=1C=CC(=C(C1)C1(COCC(N1)=O)CF)F | C11H10BrF2NO2
reactant | Lawesson's reagent | 12.46 mmol, 5.19 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 73 ml | C1CCOC1 | C4H8O
product | 5-(5-Bromo-2-fluoro-phenyl)-5-fluoromethyl-morpholine-3-thione | BrC=1C=CC(=C(C1)C1(COCC(N1)=S)CF)F | C11H10BrF2NOS
